US05837859
Synthesis of p-nitrobenzoylthymidine (Compound No. 21 : FIG. 13)
Thymidine (2.42 g; 10 mmol) is dried by coevaporation in pyridine, then taken up in 200 ml of anhydrous pyridine and cooled to 4° C. p-Nitrobenzoyl chloride (2.04 g; 11 mmol) is added. The temperature is allowed to rise and the reaction is left overnight at room temperature. The reaction is stopped with 5 ml of saturated sodium bicarbonate. The reaction mixture is concentrated and then taken up in 500 ml of chloroform. The organic solution obtained is washed with 2×500 ml of 0.5M NaHCO3 and then with 250 ml of saturated NaCl. The aqueous phases are counter-extracted with 100 ml of CHCl3. The organic phases are evaporated. The pure product is obtained by column chromatography on silica. It is eluted with 5% of methanol in chloroform. Yield=58%.

reactant | Thymidine | 10 mmol, 2.42 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | p-Nitrobenzoyl chloride | 11 mmol, 2.04 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | p-nitrobenzoylthymidine | Yield=58% | [N+](=O)([O-])C1=CC=C(C(=O)[C@@]2(C[C@H](O)[C@@H](CO)O2)N2C(=O)NC(=O)C(C)=C2)C=C1 | C17H17N3O8
